US07214746B2
tert-Butyl(1H-inden-2-yl)phosphine (14).
To 9.61 g (0.049 mol) of 2-bromo-1H-indene and 1.13 g (0.98 mmol) of Pd(PPh3)4 in 25 ml of toluene, 7.5 ml (5.45 g, 0.054 mol) of Et3N and 4.88 g (0.054 mol) of tBuPH2 were added. This mixture was refluxed for 14 hours, cooled to room temperature, and filtered through glass frit (G3) to separate out compound 15. The filtrate was evaporated to dryness. The crude product was distilled in vacuum (108–110° C./3 mm). Yield 3.07 g (31%) of crystalline solid of 14.

reactant | 2-bromo-1H-indene | 0.049 mol, 9.61 g | BrC=1CC2=CC=CC=C2C1 | C9H7Br
reactant | Et3N | 0.054 mol, 7.5 ml, 5.45 g | CCN(CC)CC | C6H15N
reactant | tBuPH2 | 0.054 mol, 4.88 g | C(C)(C)(C)P | C4H11P
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.98 mmol, 1.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl(1H-inden-2-yl)phosphine | C(C)(C)(C)PC=1CC2=CC=CC=C2C1 | C13H17P
